US09353086B2
6-Bromo-N-(pyridin-4-yl)pyridine-2-carboxamide
2-Bromopyridine-6-carboxylic acid (5.00 g, 24.8 mmol) was dissolved in DCM (100 mL) and DMF (1 mL), and oxalyl chloride (7.54 g, 59.4 mmol) was added dropwise over 5 min. The reaction mixture was stirred for 2 h and the solvents were removed in vacuo. The reaction mixture was azeotroped twice with DCM and dissolved in DCM (100 mL). DIPEA (12.8 g, 99.0 mmol) and 4-aminopyridine (4.66 g, 49.5 mmol) were added dropwise and the reaction mixture was stirred for 2 h, washed with sat aq NaHCO3 (50 mL), dried (MgSO4) and concentrated in vacuo. The residue was recrystallised from MeOH to give the title compound (5.00 g, 73%) as an off white solid. LCMS (ES+): 278.2 [MH]+.

reactant | 2-Bromopyridine-6-carboxylic acid | 24.8 mmol, 5.00 g | BrC1=NC(=CC=C1)C(=O)O | C6H4BrNO2
reactant | oxalyl chloride | 59.4 mmol, 7.54 g | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | DIPEA | 99.0 mmol, 12.8 g | CCN(C(C)C)C(C)C | C8H19N
reactant | 4-aminopyridine | 49.5 mmol, 4.66 g | NC1=CC=NC=C1 | C5H6N2
solvent | DCM | 100 mL | C(Cl)Cl | CH2Cl2
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
product | 6-Bromo-N-(pyridin-4-yl)pyridine-2-carboxamide | 5.00 g, 73% | BrC1=CC=CC(=N1)C(=O)NC1=CC=NC=C1 | C11H8BrN3O
